US04024161
2-(2-chloro-1-propenyl)-5-nitrofuran (3)
To a solution of 9 g of 5-nitro-2-furaldehyde and 11.0 g of 2-chloropropionyl chloride in 100 ml of benzene was added dropwise at 25°-30° over a 20-minute period a solution of 10 g of triethylamine in 30 ml of benzene. After an additional 40 minutes, the mixture was stirred at reflux for 1.5 hours. The cooled mixture was washed with water, dried and concentrated under reduced pressure to leave a residue which was distilled to give a liquid product, b.p.: 92°-100° at 0.15 torr. This product was triturated with n-hexane to give 3 as a mixture of stereisomers, a tan solid, m.p.: 55°-65°.

reactant | 5-nitro-2-furaldehyde | 9 g | [N+](=O)([O-])C1=CC=C(O1)C=O | C5H3NO4
reactant | 2-chloropropionyl chloride | 11.0 g | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | triethylamine | 10 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-chloro-1-propenyl)-5-nitrofuran | ClC(=CC=1OC(=CC1)[N+](=O)[O-])C | C7H6ClNO3
